US06319946B1
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-1-benzyl-3-((6-[(dimethylamino)carbonyl]amino-2,2-dimethylhexyl)[3-(methylamino)phenyl]sulfonylamino)-2-hydroxypropyl]carbamate
A solution of 55 mg (0.087 mmol) of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-3-((6-amino-2,2-dimethylhexyl)[3-(methylamino)phenyl]sulfonylamino)-1-benzyl-2-hydroxypropyl]carbamate and 17 μL (0.091 mmol) of N,N-diisopropylethylamine in 4 mL of anhydrous THF at 0° C. was treated with 8.4 μL (0.091 mmol) of N,N-dimethylcarbamyl chloride. The solution was allowed to warm to RT with stirring. After 18 hours the solution was concentrated in vacuo and the residue was subjected to flash chromatography (SiO2, 95:5 CH2Cl2/2M NH3 in MeOH) to afford 49 mg (80%) of the desired compound as a white foam.

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-3-((6-amino-2,2-dimethylhexyl)[3-(methylamino)phenyl]sulfonylamino)-1-benzyl-2-hydroxypropyl]carbamate | 0.087 mmol, 55 mg | NCCCCC(CN(C[C@H]([C@H](CC1=CC=CC=C1)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O)O)S(=O)(=O)C2=CC(=CC=C2)NC)(C)C | C32H48N4O7S
reactant | N,N-diisopropylethylamine | 0.091 mmol, 17 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylcarbamyl chloride | 0.091 mmol, 8.4 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-1-benzyl-3-((6-[(dimethylamino)carbonyl]amino-2,2-dimethylhexyl)[3-(methylamino)phenyl]sulfonylamino)-2-hydroxypropyl]carbamate | 49 mg, 80% | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(S(=O)(=O)C1=CC(=CC=C1)NC)CC(CCCCNC(=O)N(C)C)(C)C)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C35H53N5O8S
